US04181661
Step A: Preparation of methyl N-(2-hydroxypropyl)dithiocarbamate
40 G (0.242 mmole) of 1-amino-2-propanol oxalate was suspended in 180 ml. of pyridine and 101 g. of triethylamine was added. The mixture was stirred mechanically for 1 hour, there cooled to 0° and 38 g. of carbon disulfide (0.5 mole) was added dropwise. After 2 hours at 0° C., 36 g. of methyl iodide (0.254 mole) was added dropwise and almost all solids dissolved. The mixture was stored in a refrigerator overnight (0°-5° C.). The mixture was poured into 2.4 l. of 3 N H2SO4 and extracted with ether 3 times. The ether extracts were washed with water, 3 N H2SO4, water, aqueous NaHCO3 solution and water, dried over Na2SO4 and stripped down to 18.79 g. (47%) of oily methyl N-(2-hydroxypropyl) dithiocarbamate.

reactant | 1-amino-2-propanol oxalate | 0.242 mmole | C(C(=O)O)(=O)O.NCC(C)O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | carbon disulfide | 0.5 mole | C(=S)=S | CS2
reactant | methyl iodide | 0.254 mole | CI | CH3I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl N-(2-hydroxypropyl)dithiocarbamate | OC(CNC(SC)=S)C | C5H11NOS2
